US05821240
(41) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-(1-methyl-4-piperidinyl)-1-piperidinyl]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[4-(4-piperidinyl)-1-piperidinyl]pyrimido[5,4-d]pyrimidine by reductive amination with formaldehyde and sodium cyanoborohydride. Melting point: 159°-162° C.; Rf : 0.58 (alumina; petroleum ether/ethyl acetate/methanol=10:10:1)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[4-(4-piperidinyl)-1-piperidinyl]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)N2CCC(CC2)C2CCNCC2 | C22H25ClFN7
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[4-(1-methyl-4-piperidinyl)-1-piperidinyl]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)N2CCC(CC2)C2CCN(CC2)C | C23H27ClFN7
